US05322847
1. 6-hydroxy chroman-4-one
A mixture of 36 g of 6-methoxychroman-4-one and 290 ml of 48% hydrogen bromide solution in 290 ml of glacial acetic acid was heated to reflux for 3 hours. The solvent was removed in vacuo and the residue diluted with 2 l of water and stored in a refrigerator overnight. The resulting solid was filtered, washed with water and dried, 25.7 g. The original filtrate was extracted with ethyl acetate and the organic layer dried over sodium sulfate and concentrated to give an additional 4.75 g of the titled product.

reactant | 6-methoxychroman-4-one | 36 g | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
reactant | hydrogen bromide | 290 ml | Br | BrH
solvent | acetic acid | 290 ml | C(C)(=O)O | C2H4O2
product | 6-hydroxy chroman-4-one | 4.75 g | OC=1C=C2C(CCOC2=CC1)=O | C9H8O3
